US08076329B2
Following the procedure described in example 1§E, but starting from 4-phenoxyphenol (950 mg), potassium carbonate (3.2 g) and 1-bromo-3-chloropropane (2.5 mL) in N,N-dimethylformamide (5 mL) affords 0.50 g of 4-(3-chloropropoxy)-O-phenylphenol used without any further purification.

reactant | 4-phenoxyphenol | 950 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | potassium carbonate | 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 2.5 mL | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloropropoxy)-O-phenylphenol | 0.50 g | ClCCCOC1=CC=C(C=C1)OC1=CC=CC=C1 | C15H15ClO2
